US08735424B2
A solution of 6-bromo-4-chloroquinoline (1.0 equiv.), (S)-tert-butyl piperidin-3-ylcarbamate (1.0 equiv.) and DIEA (1.5 equiv.) in NMP (0.1 M) was heated at 140° C. for 48 hours. Upon cooling the solution was poured onto ice and upon melting the solid was filtered, rinsed with H2O and pumped on to yield (S)-tert-butyl 1-(6-bromoquinolin-4-yl)piperidin-3-ylcarbamate. LC/MS=406.0/408.0 (M+H), LC=2.85 min.

reactant | 6-bromo-4-chloroquinoline | 1.0 equiv. | BrC=1C=C2C(=CC=NC2=CC1)Cl | C9H5BrClN
reactant | (S)-tert-butyl piperidin-3-ylcarbamate | 1.0 equiv. | N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | DIEA | 1.5 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 0.1 M | CN1CCCC1=O | C5H9NO
product | (S)-tert-butyl 1-(6-bromoquinolin-4-yl)piperidin-3-ylcarbamate | BrC=1C=C2C(=CC=NC2=CC1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C19H24BrN3O2
